US07456164B2
isopropyl-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]-tetrahydro-pyran-4-ylmethyl}amine
To a solution of {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine (400 mg, 1.256 mmol) in dichloroethane (10 mL) under nitrogen atmosphere was added acetic acid (180.5 mg, 2.76 mmol), triethylamine (306.4 mg, 2.76 mmol) and acetone (80.2 mg, 1.38 mmol). The mixture was stirred for 1 h at ambient temperature and NaHB(OAc)3 (601 mg, 2.76 mmol) was added. After stirring overnight, the reaction mixture was filtered over celite, concentrated in vacuo and purified by column chromatography on silica gel eluting with DCM:MeOH:NH3 (89:10:1) to give the title compound as an oil (282 mg, 60%). 1H NMR (400 MHz, CDCl3) δ 7.13 (d, 2H), 6.82 (d, 2H), 3.96 (t, 2H), 3.68 (m, 2H), 3.49 (m, 2H), 2.61 (s, 2H), 2.56 (t, 2H), 2.46 (m, 5H), 2.04 (m, 2H), 1.94 (m, 2H), 1.84 (m, 2H), 1.72 (m, 4H), 1.19 (s, 1H), 0.83 (d, 6H).

reactant | {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine | 1.256 mmol, 400 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN | C19H30N2O2
reactant | acetic acid | 2.76 mmol, 180.5 mg | C(C)(=O)O | C2H4O2
reactant | triethylamine | 2.76 mmol, 306.4 mg | C(C)N(CC)CC | C6H15N
reactant | acetone | 1.38 mmol, 80.2 mg | CC(=O)C | C3H6O
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | isopropyl-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]-tetrahydro-pyran-4-ylmethyl}amine | 282 mg, 60% | C(C)(C)NCC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C22H36N2O2
